US04609664
4-{1-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-10(9H)-one-oxime
6.0 g 4-{1-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-10(9H)one and 0.95 g hydroxylaminehydrochlorid in 70 ml pyridine are refluxed for 12 hours. After elimination of the pyridine by distillation, ethanol and a little water are added to the residue and the title compound is crystallised out as the hydrochlorid (Mt. p. 240°-243°).

reactant | 4-{1-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-10(9H)one | 6.0 g | OCCOCCOCCN1CCC(CC1)=C1C2=C(CC(C=3SC=CC31)=O)C=CC=C2 | C24H29NO4S
reactant | hydroxylaminehydrochlorid | 0.95 g | Cl.NO
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 4-{1-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo[4,5]cyclohepta[1,2-b]thiophen-10(9H)-one-oxime | OCCOCCOCCN1CCC(CC1)=C1C2=C(CC(C=3SC=CC31)=NO)C=CC=C2 | C24H30N2O4S
